US05495048
1.0 g of 3,4-dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone and 0 ml of a 33 percent solution of dimethylamine in ethanol are heated to boiling for 4 hours, whereupon the mixture is evaporated. The residue is taken up in ether and treated with an ethereal hydrogen chloride solution. The precipitated hydrochloride is filtered and dried. 3,4-Dichlorophenyl 4'-[(dimethylamino)methyl]-4-biphenylyl ketone hydrochloride, m.p. 223° C., is obtained.

reactant | 3,4-dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone | 1.0 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C20H13BrCl2O
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 3,4-Dichlorophenyl 4'-[(dimethylamino)methyl]-4-biphenylyl ketone hydrochloride | Cl.CN(C)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C22H19Cl2NO.ClH/c1-25(2)14-15-3-5-16(6-4-15)17-7-9-18(10-8-17)22(26)19-11-12-20(23)21(24)13-19;/h3-13H,14H2,1-2H3;1H
